US06936608B2
To 2,4-dibromo-3,5-difluoro-6-(2-fluoro-5-nitrophenyl)pyridine (1.20 g, 2.91 mmol) dissolved in dichloromethane (30 ml) was added triethylamine (3 ml) and ethanol (80 ml), followed by 10% palladium on carbon (0.536 g). The mixture was then shaken under an atmosphere of hydrogen gas at 45 psi until complete reaction was indicated by TLC (0.25 to 3.5 h). The catalyst was then removed by filtration, and the solvent was stripped at reduced pressure to afford 3-(3,5-difluoropyridin-2-yl)-4-fluorophenylamine, which was used subsequently without further purification: MS (ES+) m/z 225 [M+H]+.

reactant | 2,4-dibromo-3,5-difluoro-6-(2-fluoro-5-nitrophenyl)pyridine | 2.91 mmol, 1.20 g | BrC1=NC(=C(C(=C1F)Br)F)C1=C(C=CC(=C1)[N+](=O)[O-])F | C11H3Br2F3N2O2
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | ethanol | 80 ml | C(C)O | C2H6O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | palladium on carbon | 0.536 g | [Pd] | Pd
product | 3-(3,5-difluoropyridin-2-yl)-4-fluorophenylamine | FC=1C(=NC=C(C1)F)C=1C=C(C=CC1F)N | C11H7F3N2
